US05739299
iii) Preparation of 3-methyl-N-ethyl-N-(2-benzoyloxyethyl)aniline
Benzoylchloride (3.3 g) was added to a mixture of N-ethyl-N-hydroxyethyl-3-methylaniline (2.1 g) in acetone (25 cm3) and pyridine (1 cm3) and stirred at reflux for 1 hour. The reaction mixture was cooled and used directly in iv) below.

reactant | Benzoylchloride | 3.3 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | N-ethyl-N-hydroxyethyl-3-methylaniline | 2.1 g | C(C)N(C1=CC(=CC=C1)C)CCO | C11H17NO
solvent | acetone | 25 cm3 | CC(=O)C | C3H6O
solvent | pyridine | 1 cm3 | N1=CC=CC=C1 | C5H5N
product | 3-methyl-N-ethyl-N-(2-benzoyloxyethyl)aniline | CC=1C=C(N(CCOC(C2=CC=CC=C2)=O)CC)C=CC1 | C18H21NO2
